US08426447B2
(S)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine (250 mg, 0.599 mmol) and CuCN (268 mg, 3.00 mmol) were brought up in NMP (1997 μL) and heated to 200° C. in the microwave. The reactions were cooled to rt, filtered and purified by reverse-phase preparative HPLC using a Gemini NX c!8 column (150*30 mm, 5 um), 0.1% TFA in CH3CN/H2O, gradient 0% to 70% over 10 min to provide the product. Solvent was removed by evaporation and the product was brought up in sat's aqueous NaHCO3 and DCM and extracted with DCM. The organic washes were combined, dried over Na2SO4, filtered and concentrated to give (R)-2-amino-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthene]-2′-carbonitrile.

reactant | (S)-2′-bromo-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 0.599 mmol, 250 mg | BrC1=CC=2[C@]3(C4=CC(=CC=C4OC2C=C1)OCC(C)(C)C)N=C(OC3)N | C20H21BrN2O3
reactant | CuCN | 3.00 mmol, 268 mg | C(#N)[Cu]
solvent | NMP | 1997 μL | CN1CCCC1=O | C5H9NO
product | (R)-2-amino-7′-(neopentyloxy)-5H-spiro[oxazole-4,9′-xanthene]-2′-carbonitrile | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C#N)OCC(C)(C)C)N1 | C21H21N3O3
